US06465472B1
1-Ethyl-6,7-ethylenedioxy-4-phenylquinazolin-2(1H)-thione
A mixture of 1-ethyl-6,7-ethylenedioxy-4-phenyl-3,4-dihydroquinazolin-2(1H)-thione (77 mg, 0.24 mmol) and MnO2 (180 mg, 2.07 mmol) in 5 mL of CHCl3 was stirred at rt for 3 days. The solids were filtered off and the solution concentrated in vacuo. The crude residue was subjected to flash column chromatography eluting with EtOAc:hexane to give the title compound (35 mg, 46%. 1H NMR (CDCl3): 7.72 (dd, 2H), 7.53-7.49 (m, 3H), 7.38 (s, 1H), 7.09 (3, 1H), 4.90 (m, 2H), 4.48-4.30 (m, 4H), 1.55 (t, 3H).

reactant | 1-ethyl-6,7-ethylenedioxy-4-phenyl-3,4-dihydroquinazolin-2(1H)-thione | 0.24 mmol, 77 mg | C(C)N1C(NC(C2=CC3=C(C=C12)OCCO3)C3=CC=CC=C3)=S | C18H18N2O2S
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | MnO2 | 2.07 mmol, 180 mg | O=[Mn]=O
product | 1-Ethyl-6,7-ethylenedioxy-4-phenylquinazolin-2(1H)-thione | C(C)N1C(N=C(C2=CC3=C(C=C12)OCCO3)C3=CC=CC=C3)=S | C18H16N2O2S
